US06071928
(d) N-(3-Bromo-4-isopropoxyphenyl)trifluoroacetamide
Trifluoroacetic anhydride (1.1 ml, 1.64 g, 8 mmol) was added slowly to a stirred, cooled (0° C.) solution of 2-isopropoxy-5-amino-bromobenzene (0.92 g, 4 mmol) and triethylamine (1.1 ml, 0.90 g, 8 mmol) in dichloromethane (10 ml) and the mixture stirred at room temperature for 2 hours. The mixture was diluted with dichloromethane (30 ml) and washed with water (30 ml) and brine (30 ml), dried (MgSO4) and the solvent evaporated under reduced pressure to give the title compound as a beige solid (1.28 g, 100%); δH (360MHz, CDCl3) 1.37 (3H, d, J 5.6Hz, OCH(CH3)2), 4.54 (1H, m OCH(CH3)2), 6.91 (1H, d, J 8.9Hz, 5'-H), 7.46 (1H, dd, J 8.9, 2.7Hz, 6'-H), 7.74 (1H, d, J 2.7Hz, 2'-H).

reactant | Trifluoroacetic anhydride | 8 mmol, 1.1 ml, 1.64 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-isopropoxy-5-amino-bromobenzene | 4 mmol, 0.92 g | C(C)(C)OC1=C(C=C(C=C1)N)Br | C9H12BrNO
reactant | triethylamine | 8 mmol, 1.1 ml, 0.90 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N-(3-Bromo-4-isopropoxyphenyl)trifluoroacetamide | 1.28 g, 100% | BrC=1C=C(C=CC1OC(C)C)NC(C(F)(F)F)=O | C11H11BrF3NO2
